US06812229B1
25.0 g of 4-chloro-3-methylacetophenone, 26.6 g of N-bromosuccinic imide and a catalytic amount of azobisisobutyronitrile were added to 150 ml of carbon tetrachloride, followed by reflux under heating for 2 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, insoluble matters were collected by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue, 18.0 g of potassium cyanate and 38 ml of methanol were added to 150 ml of N,N-dimethylformamide, followed by stirring at 90° C. for 4 hours. After completion of the reaction, water was added to the reaction mixture, extraction with ethyl acetate was carried out, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (Wakogel C-200, eluent: hexane/ethyl acetate) and washed with isopropyl ether to obtain 6.8 g of methyl N-(2-chloro-5-acetylbenzyl)carbamate as colorless crystals.

reactant | 4-chloro-3-methylacetophenone | 25.0 g | CC1=C(C=CC(=C1)C(=O)C)Cl | C9H9ClO
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-(2-chloro-5-acetylbenzyl)carbamate | 6.8 g | ClC1=C(CNC(OC)=O)C=C(C=C1)C(C)=O | C11H12ClNO3
